US05840732
i) Synthesis of 3-(imidazo[1,2-a]pyridin-5-yl)methylthiazolidine-2,4-dione
To a suspension of 1.19 g (8.0 mmol) of 5-hydroxymethylimidazo[1,2-a]pyridine in 10 ml of dichloromethane, 4.05 ml (56 mmol) of thionyl chloride was added, followed by stirring at room temperature for 1 hour, after which the solvent was distilled off. To a solution of this residue and 0.94 g (8.0 mmol) of thiazolidine-2,4-dione in 15 ml of N,N-dimethylformamide, 2.40 ml (16.0 mmol) of 1,8-diazabicyclo[5.4.0]-7-undecene was added, followed by stirring at 80° C. for 16 hours. After the reaction mixture was cooled, water was added; the mixture was extracted with ethyl acetate and dried, after which the solvent was distilled off. The residue was purified by recrystallization (solvent, chloroform/ethyl acetate/diethyl ether) to yield 247 mg (12.5%, light brown powder) of the desired product.

reactant | 5-hydroxymethylimidazo[1,2-a]pyridine | 8.0 mmol, 1.19 g | OCC1=CC=CC=2N1C=CN2 | C8H8N2O
reactant | thionyl chloride | 56 mmol, 4.05 ml | S(=O)(Cl)Cl | Cl2OS
reactant | thiazolidine-2,4-dione | 8.0 mmol, 0.94 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 16.0 mmol, 2.40 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-(imidazo[1,2-a]pyridin-5-yl)methylthiazolidine-2,4-dione | N=1C=CN2C1C=CC=C2CN2C(SCC2=O)=O | C11H9N3O2S
